US04705791
N-Chloromethyl acetanilide
4-Chloro-1-(chloromethylthio)benzene (30 mmol) was added to a mixture of acetanilide (30 mmol) and potassium tert-butoxide (30 mmol) in DMF (75 ml). The mixture was stirred at 80° C. for 2 hours before the solvent was distilled off, the residue dissolved in chloroform and washed three times with water. The dried solution (MgSO4) was evaporated and the residue dissolved in ether. Remaining acetanilide was precipitated by adding Pet. ether and the solution evaporated. Yield 3.0 g. (43%). The crude product (13 mmol) was dissolved in CH2Cl2 (40 ml) and SO2Cl2 (13 mmol) in CH2Cl2 (10 ml) was added with stirring at 5° C. over 5 minutes. The mixture was stirred for 10 minutes before cyclohexene (14 mmol in CH2Cl2 (10 ml) was added. After stirring for 10 minutes at 5° C. the mixture was evaporated and the residue washed with Pet. ether and dried. Yield 0.70 g (29%). The product was used in Example 32 without purification. 1H NMR (CDCl3, δ): 1.92 (CH3), 5.50 (--SCH2), 7.1-7.7 (Ph).

reactant | 4-Chloro-1-(chloromethylthio)benzene | 30 mmol | ClC1=CC=C(C=C1)SCCl | C7H6Cl2S
reactant | acetanilide | 30 mmol | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | potassium tert-butoxide | 30 mmol | CC(C)([O-])C.[K+]
reactant | cyclohexene | C1=CCCCC1 | C6H10
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | N-Chloromethyl acetanilide | ClCN(C1=CC=CC=C1)C(C)=O | C9H10ClNO
